US04637997
n-butanol-acetic acid-pyridine-water (15-3-10-12 by volume):
racemisation test: Glu 2.44%; Tyr 1.2%; Ile 1.41%; Val 1%.

reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
product | n-butanol acetic acid pyridine water | C(CCC)O.C(C)(=O)O.N1=CC=CC=C1.O | InChI=1S/C5H5N.C4H10O.C2H4O2.H2O/c1-2-4-6-5-3-1;1-2-3-4-5;1-2(3)4;/h1-5H;5H,2-4H2,1H3;1H3,(H,3,4);1H2
